US09326987B2
6-(1H-Indol-4-yl)-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole
A stirred solution of 6-(1H-indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole (25 mg, 0.045 mmol) and 2M sodium hydroxide (3 ml) in isopropanol (10 ml) was stirred at room temperature for 1 h. The solution was treated with 2M hydrochloric acid (3 ml) and evaporated to low bulk until the product was precipitated. The resulting solid was collected by filtration and washed with water to give the title compound as a cream coloured solid (15 mg).

reactant | 6-(1H-indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | 0.045 mmol, 25 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CN1CCOCC1 | C29H26N6O4S
reactant | sodium hydroxide | 2M, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 3 ml | Cl | ClH
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 6-(1H-Indol-4-yl)-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CN1CCOCC1 | C22H20N6O2
